US05804584
This example illustrates a synthesis for compound no. 1552. The synthesis begins with a solution of compound no. 1564 [1-(9,10-dihydroxydecyl-3,7-dimethylxanthine (2.11 g, 6.0 mmol)] from Example 2. Compound no. 1564 was stirred with HBr (5.38 ml, 4.85 g of a 30% solution in acetic acid, 18 mmol) for 90 minutes. The mixture was added to a flask containing saturated aqueous sodium bicarbonate solution (40 ml) and 50 ml of dichloromethane. After 10 minutes of vigorous stirring, the layers were separated and the aqueous layers washed with dichloromethane (2×50 ml). The organic portions were combined, dried with sodium sulfate, and evaporated to give 1-(9'-acetoxy-10'-bromodecyl)-3,7-dimethylxanthine as a yellow oil (2.72 g, 100% yield). Without further purification, the oil was taken up in methanol (30 ml), and treated with a solution of sodium methoxide (prepared from 151 mg, 6.6 mmol sodium and 6 ml methanol). After 30 minutes, the reaction mixture was added to water (30 ml) and extracted with dichloromethane (3×50 ml). The organic layers were combined and dried with sodium sulfate to give an off-white solid which was recrystalized (in dichloromethane/petroleum ether) to yield 1-(9,10-oxidodecyl)-3,7-dimethylxanthine racemic mixture.

reactant | 9,10-dihydroxydecyl-3,7-dimethylxanthine | 6.0 mmol, 2.11 g | OC(CCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C17H28N4O4
reactant | HBr | Br | BrH
reactant | sodium bicarbonate | 40 ml | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(9'-acetoxy-10'-bromodecyl)-3,7-dimethylxanthine | 2.72 g, 100% yield | C(C)(=O)OC(CCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CBr | C19H29BrN4O4
